US08541592B2
4-(2-((S)-1-(4-fluorophenyl)ethylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)benzoyl chloride
To a solution of 4-(2-((S)-1-(4-fluorophenyl)ethylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)benzoic acid (0.48 g, 1.29 mmol) in CH2Cl2 (6 mL) was added thionyl chloride (Aldrich, 0.19 ml, 2.58 mmol), and 2 drops of DMF. After stirring the mixture overnight at ambient temp., the crude product was concentrated in vacuo and dried on high vacuum. The product was used in next step without purification.

reactant | 4-(2-((S)-1-(4-fluorophenyl)ethylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)benzoic acid | 1.29 mmol, 0.48 g | FC1=CC=C(C=C1)[C@H](C)NC=1SC(C(N1)=O)(C)C1=CC=C(C(=O)O)C=C1 | C19H17FN2O3S
reactant | thionyl chloride | 2.58 mmol, 0.19 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 4-(2-((S)-1-(4-fluorophenyl)ethylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)benzoyl chloride | FC1=CC=C(C=C1)[C@H](C)NC=1SC(C(N1)=O)(C)C1=CC=C(C(=O)Cl)C=C1 | C19H16ClFN2O2S
